US06268387B1
(2-Methoxy-5-phenylcarbamoyl-phenylcarbamoyl)-acetic acid phenylmethyl ester
Acetoxymandeloyl chloride (1.10 g, 5 mmol) was added to a mixture of 4-methoxy-3-amino-N-phenyl-benzamide (1.24 g, 5 mmol) and triethylamine (1.25 mL, 9 mmol) in ethyl acetate (50 mL). The flask was agitated briefly then allowed to stand overnight at room temperature. The reaction mixture was diluted with ethyl acetate (150 mL), washed with aqueous sodium bicarbonate solution (150 mL) then brine (100 mL), dried over magnesium sulfate, and filtered. Removal of the solvent followed by trituration in hexanes/ethyl acetate (2:1) gave the product (1.46 g.); m.p. 168-171° C.

reactant | Acetoxymandeloyl chloride | 5 mmol, 1.10 g | C(C)(=O)OC(C(=O)Cl)(O)C1=CC=CC=C1 | C10H9ClO4
reactant | 4-methoxy-3-amino-N-phenyl-benzamide | 5 mmol, 1.24 g | COC1=C(C=C(C(=O)NC2=CC=CC=C2)C=C1)N | C14H14N2O2
reactant | triethylamine | 9 mmol, 1.25 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | (2-Methoxy-5-phenylcarbamoyl-phenylcarbamoyl)-acetic acid phenylmethyl ester | C1(=CC=CC=C1)COC(CC(NC1=C(C=CC(=C1)C(NC1=CC=CC=C1)=O)OC)=O)=O | C24H22N2O5
